US06169107A
A mixture of 5.20 g (19.9 mmol) of ethyl 7-carbomethoxy-1-methyl-2-indolecarboxylate, 90 ml of 2N sodium hydroxide and 150 ml of ethanol was refluxed for 3 hours. The reaction mixture was concentrated under reduced pressure and ice water was added to the residue. 2N hydrochloric acid was added to acidify the reaction mixture. The precipitated solid was filtered and dried under reduced pressure to give 4.70 g (>99%) of 1-methylindole-2,7-dicarboxylic acid.

reactant | ethyl 7-carbomethoxy-1-methyl-2-indolecarboxylate | 19.9 mmol, 5.20 g | C(=O)(OC)C=1C=CC=C2C=C(N(C12)C)C(=O)OCC | C14H15NO4
reactant | sodium hydroxide | 2N, 90 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-methylindole-2,7-dicarboxylic acid | 4.70 g, >99% | CN1C(=CC2=CC=CC(=C12)C(=O)O)C(=O)O | C11H9NO4
